US07582769B2
3-{2-[3-Cycloheptyl-3-(4-phenyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
Prepared in a similar manner to {2-[3-cyclopentyl-3-(trans-4-ethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid via cycloheptyl-(4-phenyl-cyclohexyl)-amine and 3-(2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester to give the title compound.

reactant | {2-[3-cyclopentyl-3-(trans-4-ethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)CC | C19H29N3O3S2
reactant | cycloheptyl-(4-phenyl-cyclohexyl)-amine | C1(CCCCCC1)NC1CCC(CC1)C1=CC=CC=C1 | C19H29N
reactant | 3-(2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester | C(C)OC(CCSC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3-Cycloheptyl-3-(4-phenyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C1(CCCCCC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)C1CCC(CC1)C1=CC=CC=C1 | C26H35N3O3S2
